US08604061B2
A solution of (RS)-tert-butoxycarbonylamino-(3-hydroxy-phenyl)-acetic acid methyl ester (CAS 526217-60-7) in THF (10 ml) was treated under an argon atmosphere with tetrahydro-pyran-4-ol (0.24 ml), triphenylphosphine (649 mg) and di-tert-butyl azodicarboxylate (570 mg) and stirred at r.t. overnight. The reaction mixture was concentrated. The crude product was purified by column chromatography (silical gel; gradient: cyclohexane ->cyclohexane/EtOAc 1:1) to give (RS)-tert-butoxycarbonylamino-[3-(tetrahydro-pyran-4-yloxy)-phenyl]-acetic acid methyl ester (884 mg, 82%) as viscous light yellow oil.

reactant | (RS)-tert-butoxycarbonylamino-(3-hydroxy-phenyl)-acetic acid methyl ester | COC(C(C1=CC(=CC=C1)O)NC(=O)OC(C)(C)C)=O | C14H19NO5
reactant | tetrahydro-pyran-4-ol | 0.24 ml | O1CCC(CC1)O | C5H10O2
reactant | triphenylphosphine | 649 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 570 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (RS)-tert-butoxycarbonylamino-[3-(tetrahydro-pyran-4-yloxy)-phenyl]-acetic acid methyl ester | 884 mg, 82% | COC(C(C1=CC(=CC=C1)OC1CCOCC1)NC(=O)OC(C)(C)C)=O | C19H27NO6
